US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-1-(2-hydroxyethyl)-5-methylpyrazole-4-carboxamide
1-(2-Hydroxyethyl)-5-methylpyrazole-4-carboxylic acid (1.7 g), 5-amino-2-neopentyloxybenzonitrile (2.1 g), 1-hydroxybenzotriazole (1.6 g) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (2.3 g) were added to dimethylformamide (20 ml) and the mixture was stirred at room temperature for 5 h. The reaction mixture was treated with aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase:chloroform:methanol=100:1). Diisopropyl ether was added to the obtained oily substance to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give the title compound (1.1 g), melting point: 98–100° C.

reactant | 1-(2-Hydroxyethyl)-5-methylpyrazole-4-carboxylic acid | 1.7 g | OCCN1N=CC(=C1C)C(=O)O | C7H10N2O3
reactant | 5-amino-2-neopentyloxybenzonitrile | 2.1 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
reactant | 1-hydroxybenzotriazole | 1.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 2.3 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-Cyano-4-neopentyloxyphenyl)-1-(2-hydroxyethyl)-5-methylpyrazole-4-carboxamide | 1.1 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C=NN(C1C)CCO | C19H24N4O3
